US07732448B2
Into 3 ml of ethanol was resolved 0.3 g of 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine, 0.51 g of 3,5-dimethylpiperidine (cis/trans=about 3/1) was added therein, and the mixture was stirred for 8 hours under reflux condition. The reaction mixture was cooled to near room temperature, and concentrated. Into the residue was added a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.40 g of 4-(2-butynyloxy)-5-fluoro-6-(3,5-dimethylpiperidino)pyrimidine (hereinafter, referred to as Compound (4)). Compound (4) had the cis/trans diastereomer originated two methyls on the piperidine ring. The ratio of the cis/trans diastereomer was about 3.3/1.

reactant | 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine | 0.3 g | C(C#CC)OC1=NC=NC(=C1F)Cl | C8H6ClFN2O
reactant | 3,5-dimethylpiperidine | 0.51 g | CC1CNCC(C1)C | C7H15N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-(2-butynyloxy)-5-fluoro-6-(3,5-dimethylpiperidino)pyrimidine | 0.40 g | C(C#CC)OC1=NC=NC(=C1F)N1CC(CC(C1)C)C | C15H20FN3O
